US04124593
The solution of 350 mg of N-(2-methoxymethyl-4-nitrophenyl)-4-chlorophthalimide is hydrogenated over 200 mg of 5% rhodium on carbon at 2.5 atmospheres of hydrogen pressure for 4 hours. After filtration from the catalyst, the residue is refluxed for 24 hours in 5 ml of xylene. After evaporation of the solvent, the residue is dissolved in acetone and the solution neutralized with ethereal hydrogen chloride, to yield the N-(2-methoxymethyl-4-aminophenyl)-4-chlorophthalimide hydrochloride melting at 255°-257°.

reactant | N-(2-methoxymethyl-4-nitrophenyl)-4-chlorophthalimide | 350 mg | COCC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C16H11ClN2O5
reactant | hydrogen | [H][H] | H2
catalyst | rhodium on carbon | 200 mg | [Rh] | Rh
product | N-(2-methoxymethyl-4-aminophenyl)-4-chlorophthalimide hydrochloride | Cl.COCC1=C(C=CC(=C1)N)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | InChI=1S/C16H13ClN2O3.ClH/c1-22-8-9-6-11(18)3-5-14(9)19-15(20)12-4-2-10(17)7-13(12)16(19)21;/h2-7H,8,18H2,1H3;1H
